US06194409B1
97e. 1-(2-(R)-Acetylamino-3-biphenyl-4yl-propionyl)-pyrrolidin-2-(S)-carboxylic acid
1-(2-(R)-Acetylamino-3-biphenyl-4yl-propionyl)-pyrrolidin-2-(S)-carboxylic acid benzyl ester (0.50 g) were dissolved in 30 mL of methanol and hydrogenated for 4 h at room temperature using 0.3 g palladium on charcoal (10%) as catalyst. Filtration followed by concentration in vacuo affords 0.37 g (91%) of the title compound as a white solid. (+)-APCI-MS: 381 (MH+).

reactant | 1-(2-(R)-Acetylamino-3-biphenyl-4yl-propionyl)-pyrrolidin-2-(S)-carboxylic acid benzyl ester | 0.50 g | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCC1)C([C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C)=O)=O | C29H30N2O4
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
product | 1-(2-(R)-Acetylamino-3-biphenyl-4yl-propionyl)-pyrrolidin-2-(S)-carboxylic acid | 0.37 g, 91% | C(C)(=O)N[C@@H](C(=O)N1[C@@H](CCC1)C(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C22H24N2O4
